US05156763
4-Butoxy-2-fluorobenzonitrile (18)
A solution of 1-bromobutane (18.0 g, 0.13 mol) in acetone (30 ml) was added dropwise to a stirred refluxing mixture of 2-fluoro-4-hydroxybenzonitrile (15.0 g, 0.11 mol) and potassium carbonate (46.0 g, 0.33 mol) in acetone (300 ml). The stirred mixture was heated under reflux for 21 h (glc analysis revealed absence of starting material). The product was extracted into ether (twice), and the combined ethereal extracts were washed with water, 5% sodium hydroxide, water and dried (MgSO4). The solvent and the excess of 1-bromobutane were removed in vacuo to yield a pale-orange solid.

reactant | 1-bromobutane | 0.13 mol, 18.0 g | BrCCCC | C4H9Br
reactant | 2-fluoro-4-hydroxybenzonitrile | 0.11 mol, 15.0 g | FC1=C(C#N)C=CC(=C1)O | C7H4FNO
reactant | potassium carbonate | 0.33 mol, 46.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 30 ml | CC(=O)C | C3H6O
solvent | acetone | 300 ml | CC(=O)C | C3H6O
product | 4-Butoxy-2-fluorobenzonitrile | C(CCC)OC1=CC(=C(C#N)C=C1)F | C11H12FNO
